US08193236B2
3-[6-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyridin-3-yl]-4-(1H-indol-3-yl)-pyrrole-2,5-dione
Potassium tert-butoxide (1.0 M in THF, 1.90 ml, 1.90 mmol, 3.0 equiv) is added dropwise at room temperature under an atmosphere of argon to a solution of (1H-Indol-3-yl)-oxo-acetic acid methyl ester (192 mg, 0.93 mmol, 1.5 equiv) and of 2-[6-(tert-butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyridin-3-yl]-acetamide (300 mg, 0.62 mmol) in anhydrous tetrahydrofuran (5.0 ml, dried over molecular sieves). The reaction mixture is stirred for 30 minutes at 0° C., 30 minutes at room temperature and 1 hour at 45° C. It is then diluted with EtOAc and poured into a saturated aqueous NH4Cl solution. After three extractions with EtOAc, the combined organic layers are dried over Na2SO4, filtered and concentrated in vacuo. Purification of the residue via flash chromatography (gradient of hexane/EtOAc 50:50 to 20:80) affords the title compound (180 mg, 45%). MS (ES+): 611 (M+H)+.

reactant | Potassium tert-butoxide | 1.90 mmol, 1.0 M, 1.90 ml, 3.0 equiv | CC(C)([O-])C.[K+]
reactant | (1H-Indol-3-yl)-oxo-acetic acid methyl ester | 0.93 mmol, 192 mg, 1.5 equiv | COC(C(=O)C1=CNC2=CC=CC=C12)=O | C11H9NO3
reactant | 2-[6-(tert-butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyridin-3-yl]-acetamide | 0.62 mmol, 300 mg | C(C)(C)(C)[SiH2]OC(C=1C=CC=2N(C1)C(=C(N2)C)CC(=O)N)(C2=CC=CC=C2)C2=CC=CC=C2 | C27H31N3O2Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[6-(tert-Butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyridin-3-yl]-4-(1H-indol-3-yl)-pyrrole-2,5-dione | 180 mg, 45% | C(C)(C)(C)[SiH2]OC(C=1C=CC=2N(C1)C(=C(N2)C)C=2C(NC(C2C2=CNC1=CC=CC=C21)=O)=O)(C2=CC=CC=C2)C2=CC=CC=C2 | C37H34N4O3Si
